US09023847B2
65. (4-Benzylamino-piperidin-1-yl)-[3-(1H-pyrrolo[2,3-b]pyridin-4-ylamino)-thiophen-2-yl]-methanone
This compound was prepared in an analogous manner as 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid [2-(4-methoxy-benzylamino)-ethyl]-amide using (4-Amino-piperidin-1-yl)-[3-(1H-pyrrolo[2,3-b]pyridin-4-ylamino)-thiophen-2-yl]-methanone instead of 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid (2-amino-ethyl)-amide and benzaldehyde instead of 4-methoxy benzaldehyde. LCMS (ESI) 432 1H NMR (400 MHz, DMSO-d6) δ ppm 11.33 (1H, s) 8.93 (1H, s) 7.86 (1H, d, J=5.27 Hz) 7.70 (1H, d, J=5.27 Hz) 7.20-7.27 (3H, m) 7.11-7.19 (2H, m) 6.53 (1H, dd, J=3.51, 1.95 Hz) 6.43 (1H, d, J=5.47 Hz) 3.90 (2H, d, J=13.08 Hz) 3.57 (2H, s) 2.91 (2H, t, J=10.84 Hz) 1.63 (2H, d, J=10.35 Hz) 1.04-1.15 (2H, m)

reactant | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid [2-(4-methoxy-benzylamino)-ethyl]-amide | COC1=CC=C(CNCCNC(=O)C=2SC=CC2NC2=C3C(=NC=C2)NC=C3)C=C1 | C22H23N5O2S
reactant | (4-Amino-piperidin-1-yl)-[3-(1H-pyrrolo[2,3-b]pyridin-4-ylamino)-thiophen-2-yl]-methanone | NC1CCN(CC1)C(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C17H19N5OS
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
product | (4-Benzylamino-piperidin-1-yl)-[3-(1H-pyrrolo[2,3-b]pyridin-4-ylamino)-thiophen-2-yl]-methanone | C(C1=CC=CC=C1)NC1CCN(CC1)C(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C24H25N5OS
